US06284755B1
Step A: Preparation of 4-Methyl-morpholine-2,3-dione
Following the procedure of G. Drefahl, M. Hartmann and A. Skurk, Chem. Ber. 1966, 99, diethyl oxalate (1.81 mL, 0.0133 mol) and N-methylamino-ethanol (1 g, 0.0133 mol) were dissolved in toluene(50 mL) and heated at reflux for 5 h. The reaction mixture was concentrated to dryness, triturated with ether, and the residue chromatographed (SiO2, 0-5% MeOH in CH2Cl2) to give the title compound.

reactant | diethyl oxalate | 0.0133 mol, 1.81 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | N-methylamino-ethanol | 0.0133 mol, 1 g | CNC(C)O | C3H9NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Methyl-morpholine-2,3-dione | CN1C(C(OCC1)=O)=O | C5H7NO3
